US05362843
Preparation of 5-Acetoamidoisophthalic Acid:
5-Aminoisophthalic acid (30.33 g, 0.167 mol) was charged into a 250 mL round bottom flask with acetic anhydride (56.24 g, 0.551 mol) and KOAc (0.88 g). The reaction temperature was 60°-110° C. for 45 minutes. The resulting white solid was filtered after the reaction was allowed to cool to room temperature (about 20° C.). Yield 31.98 g (86%). 1H NMR (d-6 DMSO)--10.30, 8.41, 8.14, 2.06. 13C NMR (d-6 DMSO)--69.17, 166.82, 140.16, 131.92, 124,61, 123.59, 24.05.

reactant | 5-Aminoisophthalic acid | 0.167 mol, 30.33 g | NC=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H7NO4
reactant | acetic anhydride | 0.551 mol, 56.24 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | KOAc | 0.88 g | CC(=O)[O-].[K+]
product | 5-Acetoamidoisophthalic Acid | C(C)(=O)NC=1C=C(C=C(C(=O)O)C1)C(=O)O | C10H9NO5
